US05656642
2.2 ml of thionyl chloride was added to 2.23 g of methyl 4-(2-hydroxyethyl)aminocarbonylbenzoate. The mixture was stirred for 15 minutes. Thereto was added 10 ml of diethyl ether. The reaction mixture was added to 20 ml of a 5N aqueous sodium hydroxide solution being cooled with an ice-methanol cryogen. The mixture was stirred for a while. The resulting precipitate was collected by filtration and water-washed to obtain a white powder. The powder was dissolved in 20 ml of methanol. Thereto was added 4 ml of 5N sodium hydroxide. The mixture was stirred at 40° C. for 15 minutes and then concentrated under reduced pressure. To the residue was added ice water. The mixture was made acidic with acetic acid. The resulting crystals were collected by filtration, washed with water and methanol in this order, and dried to obtain 1.6 g of 4-(2-oxazolin-2-yl)benzoic acid as a white powder.

reactant | thionyl chloride | 2.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-(2-hydroxyethyl)aminocarbonylbenzoate | 2.23 g | OCCNC(=O)C1=CC=C(C(=O)OC)C=C1 | C11H13NO4
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-oxazolin-2-yl)benzoic acid | 1.6 g | O1C(=NCC1)C1=CC=C(C(=O)O)C=C1 | C10H9NO3
